US07534547B2
To 50 ml of dehydrated acetone were added 5.0 g (33.3 mmol) of 4-tert-butylphenol and 4.0 mg (3.3×10−2 mmol) of 4-dimethylaminopyridine, and the mixture was heated to 40° C. After heating, 7.3 g (33.3 mmol) of di-tert-butyldicarbonate was added dropwise to the mixture and the resultant mixture was stirred for 24 hours. After the completion of the reaction, the solvent was removed from the reaction mixture. The residue was dissolved in hexane and thus obtained mixture was treated with silica gel column chromatography to give 8.0 g (32.0 mmol) of 1-(tert-butoxycarbonyloxy)-4-(tert-butyl)benzene.

reactant | 4-tert-butylphenol | 33.3 mmol, 5.0 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | di-tert-butyldicarbonate | 33.3 mmol, 7.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 3.3×10−2 mmol, 4.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-(tert-butoxycarbonyloxy)-4-(tert-butyl)benzene | 32.0 mmol, 8.0 g | C(C)(C)(C)OC(=O)OC1=CC=C(C=C1)C(C)(C)C | C15H22O3
